US04016281
A solution of 0.7 g. of NaNO2 in 3 ml. of water is added dropwise to a stirred solution of 3.5 g. of 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-amino-1-tetralone in 10 ml. of 4 N hydrochloric acid. The mixture is warmed until nitrogen evolution has ceased. It is cooled, neutralized with potassium carbonate and worked up with chloroform in the customary manner. 2-(4-Phenyl-4-hydroxypiperdinomethyl)-6-hydroxy-1-tetralone is obtained. EXAMPLE 5

reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-amino-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N)=O)O | C22H26N2O2
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-(4-Phenyl-4-hydroxypiperdinomethyl)-6-hydroxy-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)O)=O)O | C22H25NO3
